Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Low Back ___
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ year old male with chief complaint of severe R leg ___, 
numbness and weakness, which he has had for the past 6 weeks. 
The symptoms have been slowly progressive. He describes burning 
sharp ___ that radiates from the right hip to the right knee. 
His symptoms were not helped or worsened by anything until 
yesterday evening when he stopped being able to ambulate due to 
the ___. He denies incontinence of urine and bowel. Denies 
history of injury. He also is not taking any anticoagulants, and 
does NOT endorse any IVDU, nor any personal or familial h/o 
cancer or bone disease.  
.  
He went to the ED on ___, and again on ___ 
- during which he was perscribed valium, ibuprofen, ultram, 
dilaudid, percocet, a short course of prednisone, and physical 
therapy without much help. He states he has similar ___ a year 
ago, for which he was seen on ___ in the context of 
lifting a heavy trash bag at home (relieved with ibuprofen 
alone). Looking even further into his chart, he has been having 
episodic episodes of similar symptoms for several years, during 
which he has been seen by orthopedics and has received several 
XR/MRIs of his Lumbar spine beginning in ___.  
.  
One day prior to admission he presented to the ED for similar 
symptoms and had a Spine consult, a U/A and ___ control. 
Neurosurgery assessed the patient and decided that the patient 
did NOT have pathology amenable to surgical intervention. His 
most recent MRI on ___: demonstrated Lumbar spine MRI 
disclosed worsening L3-4 R side disc herniation associated with 
severe narrowing of R foramen. He has a follow up with the ___ 
clinic on ___, which is the soonest the appointment could be 
scheduled. Patient reports taking all ___ medications 
prescribed from ED yesterday w/o effect.  
.  
In the ED: VS: ___. He was treated with 
Morphine 8mg IV, Toradol 30mg IM, and Dilaudid 2mg IV with good 
effect. When he arrived to the floor, the patient appears 
comfortable and in NAD.  
.  

 
Past Medical History:
- Hypercholesterolemia  
- Insomnia  
- Hemorrhoids  

 
Social History:
___
Family History:
DM, no CA, no blood disorders.
 
Physical Exam:
VS: ___  
GEN: Comfortable and in NAD  
HEENT: NC/AT, MMM, OP clear, no LAD  
CV: RRR, nl S1 and S2, no MRG  
PULM: CTA-B  
ABD: Soft, NT/ND, BS+, no HSM  
EXT: No muscle wasting, no midline back tenderness, TTP over 
musculature of the right femur. Reflexes are ___: patellar, 
achilles and downward going toes; Normal rectal tone; sensation 
is "altered" but present; strength of the LLE is normal and of 
the RLE is ___ with strong encouragement, but with significant 
___. 

 
Pertinent Results:
___ 02:55PM   GLUCOSE-120* UREA N-24* CREAT-0.9 SODIUM-138 
POTASSIUM-4.3 CHLORIDE-101 TOTAL CO2-28 ANION GAP-13
___ 02:55PM   estGFR-Using this
___ 02:55PM   WBC-9.7# RBC-4.92 HGB-15.9 HCT-44.2 MCV-90 
MCH-32.4* MCHC-36.1* RDW-12.8
___ 02:55PM   NEUTS-81.2* BANDS-0 LYMPHS-13.2* MONOS-3.2 
EOS-0.4 BASOS-0.3
___ 02:55PM   PLT COUNT-195
___ 12:20PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 12:20PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
 
Brief Hospital Course:
___ year old male with chief complaint of severe R leg ___, 
numbness and weakness, unable to ambulate.  
.  
# Leg ___.  Monitor ___, labs, and obtained 
a CK all of which were normal.  Neurosurgery - nothing surgical 
to do at this time.  Acute ___ service consulted.  Pt 
transitioned from Dilaudid PCA to PO Dilaudid in addition to 
receiving epidural injection.  ___ saw t/o hospitalization 
with improvement noted with pian control.   
.  
# Hypotension: Prerenal per labs, received narcotics, no fevers 
or elevated WBC.  Fluid boluses and encouraged PO - pressures 
normalized.    
.  
# Hypercholesterolemia: Cont. on outpt regimen of simvastatin.  
.  
# PPx: SQH  
.  
# Code status: Full code  
.  
# Communication: with pt  
.  
# Disposition: D/c in improved condition. 

 
Medications on Admission:
Ibuprofen 600 mg Tablet by mouth 3 to 4 times day prn with meals 
 
Simvastatin 80 mg Tablet 1 Tab PO daily  
Dilaudid PO 2mg Tabs 1 tab q6-8 hours  
Percocet ___ mg Tablet q6hrs  
Dulcolax 100 mg Capsule PO twice a day for 1 weeks.  

 
Discharge Medications:
1. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*2*
2. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed.
Disp:*60 Tablet(s)* Refills:*2*
3. Simvastatin 40 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
4. Tizanidine 2 mg Tablet Sig: One (1) Tablet PO TID (3 times a 
day).
Disp:*90 Tablet(s)* Refills:*2*
5. Acetaminophen 500 mg Tablet Sig: Two (2) Tablet PO TID (3 
times a day).
Disp:*180 Tablet(s)* Refills:*2*
6. Alum-Mag Hydroxide-Simeth 200-200-20 mg/5 mL Suspension Sig: 
___ MLs PO QID (4 times a day) as needed.
Disp:*300 ML(s)* Refills:*1*
7. Ibuprofen 600 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours): Please take the simethicone if you experience stomach 
upset.  Take this medication with food.
Disp:*120 Tablet(s)* Refills:*2*
8. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).
Disp:*30 Tablet, Delayed Release (E.C.)(s)* Refills:*2*
9. Hydromorphone 2 mg Tablet Sig: ___ Tablets PO Q4H (every 4 
hours) as needed: Do not drive while taking this medication.
Disp:*30 Tablet(s)* Refills:*1*
10. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO QID (4 times a day) as needed.
Disp:*60 Tablet, Chewable(s)* Refills:*1*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Chronic Low Back ___

Secondary: 
Hypercholesterolemia

 
Discharge Condition:
Improved

 
Discharge Instructions:
Please continue to take the medications prescribed.  You have 
been prescribed marcotic ___ medication.  Please take it as 
needed for your ___ control.  You should not attempt to drive 
or operate heavy machinery when taking the narcotic ___ 
medication.

Your back ___ is a chronic issue which will need further 
follow-up with your primary care doctor and the ___ clinic.
 
Followup Instructions:
___